US07691888B2
R-3a) tert-Butyl cis-4-(2,2,2-trifluoroacetylamino)cyclohexanecarbamate
A solution of tert-butyl cis-4-aminocyclohexanecarbamate (22.1 g, 103 mmol) and methyl trifluoroacetate (11 ml, 110 mmol) in 110 ml of methanol is stirred at RT for 4 h. After the reaction mixture has been cooled down to 0° C., the precipitate is filtered off, washed with diethyl ether and dried. Yield: 17.6 g.

reactant | tert-butyl cis-4-aminocyclohexanecarbamate | 103 mmol, 22.1 g | N[C@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C | C11H22N2O2
reactant | methyl trifluoroacetate | 110 mmol, 11 ml | FC(C(=O)OC)(F)F | C3H3F3O2
solvent | methanol | 110 ml | CO | CH4O
product | tert-Butyl cis-4-(2,2,2-trifluoroacetylamino)cyclohexanecarbamate | FC(C(=O)N[C@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)(F)F | C13H21F3N2O3
